US05491200
3,5-Dinitrobenzoyl caprolactam
A solution of 3,5-dinitrobenzoyl chloride (50.00 g, 0.22 mol), freshly distilled ε-caprolactam (24.54 g, 0.22 mol) and 500 ml of benzene is added to a 1L, three-necked, round-bottom flask equipped with an overhead stirrer, condenser and a nitrogen inlet tube. The solution is heated to 90°-100° C. After all the solids are dissolved, 165 ml of pyridine is added. White pyridine salts form immediately, and the reaction solution is kept at 90°-100° C. for 1 hour before removing the pyridine salts by filtration. The solvent is removed from the filtrate under reduced pressure and the residue is washed by a 5 percent NaHCO3 aqueous solution and distilled water several times before being dried. The product is recrystallized from a mixture of ethyl acetate and hexane to obtain 45 g (68 percent) of white crystals: mp 126°-126.5° .

reactant | 3,5-dinitrobenzoyl chloride | 0.22 mol, 50.00 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | ε-caprolactam | 0.22 mol, 24.54 g | C1(CCCCCN1)=O | C6H11NO
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 165 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-Dinitrobenzoyl caprolactam | 45 g, 68 percent | [N+](=O)([O-])C=1C=C(C(=O)C2C(=O)NCCCC2)C=C(C1)[N+](=O)[O-] | C13H13N3O6
